US04762844
4. 2,5-Dichloro-3-fluoro-4-methylbenzoic acid
The diazonium salt is heated under dry conditions in a glass flask. When the reaction has ended, the crude methyl 2,5-dichloro-3-fluoro-4-methylbenzoate is taken up in 100 ml of 50% strength EtOH, and 8.2 g of KOH are added. The mixture is boiled under reflux for 1 hour and, after cooling to room temperature, is acidified with HCl. The benzoic acid which has precipitated is isolated, dried and recrystallized from toluene. Yield: 11.3 g, melting point 195°-6°.

reactant | methyl 2,5-dichloro-3-fluoro-4-methylbenzoate | ClC1=C(C(=O)OC)C=C(C(=C1F)C)Cl | C9H7Cl2FO2
reactant | KOH | 8.2 g | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | EtOH | CCO | C2H6O
product | 2,5-Dichloro-3-fluoro-4-methylbenzoic acid | ClC1=C(C(=O)O)C=C(C(=C1F)C)Cl | C8H5Cl2FO2
